US04960778
STAGE B: 3-Methyl-6-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}benzoxazolinone
0.01 mole of 3-methyl-6-{3-[4-(4-fluorophenyl)-1-piperazinyl]-1-propenyl}benzoxazolinone is dissolved in ethyl acetate in a 500-cm3 flask equipped with a three-way tap and a magnetic stirrer, and 0.5 g of Raney nickel is then added. The mixture is stirred under a hydrogen atmosphere at room temperature and atmospheric pressure. After the theoretical amount of hydrogen has been absorbed, the reaction medium is filtered and the filtrate is evaporated to dryness on a water bath under vacuum. The residue is crystallized in ethanol.

reactant | 3-methyl-6-{3-[4-(4-fluorophenyl)-1-piperazinyl]-1-propenyl}benzoxazolinone | 0.01 mole | CN1C(OC2=C1C=CC(=C2)C=CCN2CCN(CC2)C2=CC=C(C=C2)F)=O | C21H22FN3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 3-Methyl-6-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}benzoxazolinone | CN1C(OC2=C1C=CC(=C2)CCCN2CCN(CC2)C2=CC=C(C=C2)F)=O | C21H24FN3O2
